US07345068B2
8-Hydroxymethyl-3-methylflavone was treated with thionyl chloride to give 8-chloromethyl-3-methylflavone.

reactant | 8-Hydroxymethyl-3-methylflavone | OCC=1C=CC=C2C(C(=C(OC12)C1=CC=CC=C1)C)=O | C17H14O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 8-chloromethyl-3-methylflavone | ClCC=1C=CC=C2C(C(=C(OC12)C1=CC=CC=C1)C)=O | C17H13ClO2
